US08624232B2
(iii) Synthesis of bis(2-butyl-1-octyl) 5,5′-bis(2-thienyl)-2,2′-bithiophene-4,4′-dicarboxylate
To the mixture of bis(2-butyl-1-octyl) 5,5′-dibromo-2,2′-bithiophene-4,4′-dicarboxylate (1.00 g, 1.34 mmol) and 2-tributylstannylthiophene (1.50 g, 4 mmol) was added Pd(PPh3)4 (46 mg, 0.04 mmol), and anhydrous DMF (15 ml). The mixture was placed under vacuum and flushed with argon several times and was put on a microwave reactor with a setting of 160° C. for 60 min. The reaction mixture was cooled to room temperature and the solvent was removed. The residue was washed with methanol to remove traces of DMF. After drying, the liquid was dissolved in hexane and purified twice by column chromatography on silica gel using a mixture of hexane/ethyl acetate (9/1) (Rf=0.5). A light yellow liquid was obtained. Yield: 1.01 g (100%).

reactant | bis(2-butyl-1-octyl) 5,5′-dibromo-2,2′-bithiophene-4,4′-dicarboxylate | 1.34 mmol, 1.00 g | BrC1=C(C=C(S1)C=1SC(=C(C1)C(=O)OCC(CCCCCC)CCCC)Br)C(=O)OCC(CCCCCC)CCCC | C34H52Br2O4S2
reactant | 2-tributylstannylthiophene | 4 mmol, 1.50 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
catalyst | Pd(PPh3)4 | 0.04 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | bis(2-butyl-1-octyl) 5,5′-bis(2-thienyl)-2,2′-bithiophene-4,4′-dicarboxylate | S1C(=CC=C1)C1=C(C=C(S1)C=1SC(=C(C1)C(=O)OCC(CCCCCC)CCCC)C=1SC=CC1)C(=O)OCC(CCCCCC)CCCC | C42H58O4S4
